US03937702
A solution of 2-hydroxy-2,3-dihydro-3,3-dimethylbenzofuran-5-yl methanesulphonate (20 parts) in warm acetic acid (200 parts) was treated with 200 parts of a 20% aqueous solution of chromic oxide. After about 15 seconds the mixture was poured into water and the solution extracted with ether. The extracts were thoroughly washed with aqueous sodium bicarbonate, then dried and the solvent evaporated to give 2-oxo-2,3-dihydro-3,3-dimethyl-benzofuran-5-yl methanesulphonate (14 parts, 70% yield), melting point 120°-121°C after recrystallisation from benzene-petroleum.

reactant | 2-hydroxy-2,3-dihydro-3,3-dimethylbenzofuran-5-yl methanesulphonate | CS(=O)(=O)OC=1C=CC2=C(C(C(O2)O)(C)C)C1 | C11H14O5S
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-oxo-2,3-dihydro-3,3-dimethyl-benzofuran-5-yl methanesulphonate | 70% yield | CS(=O)(=O)OC=1C=CC2=C(C(C(O2)=O)(C)C)C1 | C11H12O5S
